US05708008
5-(3-trifluoromethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 7.0 mg (0.03 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 17.1 mg (0.09 mMol) 3-trifluoromethylbenzoic acid, 8.7 mg (72%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.03 mMol, 7.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3-trifluoromethylbenzoic acid | 0.09 mMol, 17.1 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
product | 5-(3-trifluoromethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 8.7 mg, 72% | FC(C=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1)(F)F | C22H22F3N3O
